Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
RUE DVT 
 
Major Surgical or Invasive Procedure:
Venogram and venolysis

 
History of Present Illness:
___ is a ___ who is presenting here to the ED w/
R upper extremity DVT c/f Paget-Schroetter syndrome, for which 
we were consulted. She first noted R arm swelling ~1 wk ago 
which
progressively worsened and was mildly red and painful, and she
thus presented to ___ where a R arm DVU scan was obtained which
showed, per report, an occlusive RUE DVT involving R subclavian,
axillary, and one of two brachial veins. She was txfr'ed here 
for further management. She is unaware of any prior CVL 
placement in
the R neck. She denies any loss of sensation, numbness, 
tingling, or weakness of the R arm, and says she has never had 
similar sx
before. She currently notes that  She says she has o/w been in
her usual state of health and denies any f/c/s, lightheadness
and/or dizziness, chest pain, SOB, change in appetite, other
pain, change in BMs, or difficulty urinating; ROS is o/w -ve
except as noted before. A CTA chest was obtained which showed no
e/o PE.

 
Past Medical History:
MVC at age ___ w/ C5 fx; wisdom teeth extraction
 
Social History:
___
Family History:
no family hx of bleeding or clotting disorders
 
Physical Exam:
Vitals: AVSS
Gen - NAD
CV - RRR
Pulm - non-labored breathing, no resp distress
MSK & extremities/skin-R arm larger in size than left arm, which 
per the patient has been the baseline for several days, R arm 
slightly sore and tender to palpation, but no frank pain, b/l 
radial pulses palpable 
 
 
Brief Hospital Course:
___ female who presented with right upper extremity 
swelling was found to have a venous occlusion of her subclavian 
vein concerning for venous thoracic outlet
syndrome.  Given these findings, the decision was made to 
proceed with a venogram and possible lysis on ___. The 
venogram found stenosis of the subclavian vein concerning for 
venous thrombus and patent superior vena cava and distal basilic 
vein. A lysis catheter was placed intraop. The patient did well 
post-operatively. She did endorse some increased pain overnight. 
In the morning, she was taken back to the OR for a lysis check, 
and the catheter was removed. The patient did well post-op, had 
lunch, was given a dose of eloquis. THe patient was steady on 
her feet. She was ready for discharge. 

 
Medications on Admission:
1.  Albuterol Inhaler 1 PUFF IH Q6H:PRN wheezing  
2.  Apixaban 5 mg PO BID  
3.  Escitalopram Oxalate 20 mg PO DAILY  

 
Discharge Medications:
1.  Albuterol Inhaler 1 PUFF IH Q6H:PRN wheezing  
2.  Apixaban 5 mg PO BID  
3.  Escitalopram Oxalate 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
DVT s/p venogram and lysis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you at ___ 
___.  You were admitted to the hospital after a 
venogram for treatment of a clot.   To do the test, a small 
puncture was made in one of your veins.  The puncture site heals 
on its own: there are no stitches to remove.   You tolerated the 
procedure well and are now ready to be discharged from the 
hospital.   Please follow the recommendations below to ensure a 
speedy and uneventful recovery.

Puncture Site Care
For one week:
•Do not take a tub bath, go swimming or use a Jacuzzi or hot 
tub.
•Use only mild soap and water to gently clean the area around 
the puncture site. 
•Gently pat the puncture site dry after showering. 
•Do not use powders, lotions, or ointments in the area of the 
puncture site. 

You may remove the bandage and shower the day after the 
procedure.  You may leave the bandage off. 
You may have a small bruise around the puncture site.  This is 
normal and will go away one-two weeks. 
Activity 
For the first 48 hours: 
•Do not drive for 48 hours after the procedure
For the first week:
•Do not lift, push , pull or carry anything heavier than 10 
pounds
•Do not do any exercises or activity that causes you to hold 
your breath or bear down with abdominal muscles.   Take care not 
to put strain on your abdominal muscles when coughing, sneezing, 
or moving your bowels.
After one week:
•You may go back to all your regular activities, including 
sexual activity.  We suggest you begin your exercise program at 
half of your usual routine for the first few days.   You may 
then gradually work back to your full routine.
Medications:
Before you leave the hospital, you will be given a list of all 
the medicine you should take at home.  If a medication that you 
normally take is not on the list or a medication that you do not 
take is on the list please discuss it with the team!  
For  Problems or Questions:
Call ___ in an emergency such as:
•Sudden, brisk bleeding or swelling at the puncture site that 
does not stop after applying pressure for ___ minutes
•Bleeding that is associated with nausea, weakness, or 
fainting.
Call the vascular surgery office (___) right away if 
you have any of the following. (Please note that someone is 
available 24 hours a day, 7 days a week)
•Swelling, bleeding, drainage, or discomfort at the puncture 
site that is new or increasing since discharge from the hospital
•Any change in sensation or temperature in your legs
•Fever of 101 or greater
•Any questions or concerns about recovery from your angiogram 

 
Followup Instructions:
___